US08735434B2
tert-butyl 6,6-dimethyl-4-oxo-4,6-dihydrofuro[3,4-d][1,3]thiazol-2-ylcarbamate
Methyl 2-(tert-butoxycarbonylamino)thiazole-4-carboxylate (purchased from Combi-Blocks), diisopropylamine, butyllithium, and dry acetone (purchased from Acros) were processed as described in Example 3D to obtain the title compound. MS (ESI+) m/z 285 (M+H)+

reactant | Methyl 2-(tert-butoxycarbonylamino)thiazole-4-carboxylate | C(C)(C)(C)OC(=O)NC=1SC=C(N1)C(=O)OC | C10H14N2O4S
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | C(CCC)[Li]
reactant | acetone | CC(=O)C | C3H6O
product | tert-butyl 6,6-dimethyl-4-oxo-4,6-dihydrofuro[3,4-d][1,3]thiazol-2-ylcarbamate | CC1(OC(C=2N=C(SC21)NC(OC(C)(C)C)=O)=O)C | C12H16N2O4S
